US04515948
A suspension of 35.8 g. of 3,5-dimethoxy-4-(N-methyl-acetamido)-benzoic acid in 500 ml. of absolute methanol was saturated with dry hydrogen chloride, whereby a solution gradually formed. After standing at room temperature for 20 hours, the solution was evaporated to dryness under vacuum. The residue was treated with 200 ml. of ice-water and with a concentrated sodium hydroxide solution until a strongly alkaline reaction was achieved and the resulting emulsion was extracted with two 500 ml. portions of ethyl acetate. The ethyl acetate extracts were washed with two 100 ml. portions of water, combined, dried over magnesium sulfate, filtered and evaporated under vacuum. After recrystallization from ethyl acetate/cyclohexane, the residue yielded 3,5-dimethoxy-4-(N-methylacetamido)-benzoic acid methyl ester having a melting point of 115°-116° C.

reactant | 3,5-dimethoxy-4-(N-methyl-acetamido)-benzoic acid | COC=1C=C(C(=O)O)C=C(C1N(C(C)=O)C)OC | C12H15NO5
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | 3,5-dimethoxy-4-(N-methylacetamido)-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)N(C(C)=O)C)OC)=O | C13H17NO5
